US06174915B1
According to Example 1(b) for 3(R)-t-butyloxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester, β-allyl-N-t-butoxycarbonyl-D-aspartate (Belshaw, P.; Mzengeza, S.; Lajoie, G. Syn Commun 1990, 20, 3157-3160; 2.00 g, 7.32 mmol) and L-t-leucine N-methylamide (Malon, P.; Pancoska, P.; Budesinsky, M.; Hlavacek, J.; Pospisek, J.; Blaha, K. Coll. Czech. Chem Commun. 1983, 48, 2844-2861; 1.05 g, 7.32 mmol) were coupled with TBTU. The resultant yellow oil was routinely used without further purification. Flash column chromatography with 2% MeOH/CH2Cl2 provided 2.44 g (84%) of 3(R)-(t-butoxycarbonylamino)-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester as a pale yellow oil. 1H NMR (CDCl3): δ 7.05 (d, 1H, J=9.0 Hz), 5.98 (d, 1H, J=4.4 Hz), 5.77 (ddt, 1H, J=5.6, 10.3, 16.2 Hz), 5.29 (ddd, 1H, J=1.5, 2.8, 15.6 Hz), 5.23 (dd, 1H, J=1.3, 10.5 Hz), 4.57 (dddd, 2H, J=1.6, 3.1, 5.6, 12.1 Hz), 4.11 (d, 1H, J=9.4 Hz), 2.77 (d, 3H, J=5.0 Hz), 1.46 (s, 9H), 0.99 (s, 9H).

reactant | 3(R)-t-butyloxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)NC(=O)OC(C)(C)C)=O | C23H35N3O6
reactant | β-allyl-N-t-butoxycarbonyl-D-aspartate | 7.32 mmol, 2.00 g | C(C)(=C)OC([C@H](NC(=O)OC(C)(C)C)CC(=O)[O-])=O
reactant | L-t-leucine N-methylamide | 7.32 mmol, 1.05 g | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | 3(R)-(t-butoxycarbonylamino)-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester | 2.44 g, 84% | C(C=C)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)NC(=O)OC(C)(C)C)=O | C19H33N3O6
